US07968542B2
5-(Morpholine-4-carbonyl)thiophene-2-carboxylic acid {1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidene}hydrazide
28 mg of 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene and 26 mg of 5-(morpholine-4-carbonyl)thiophene-2-carbohydrazide prepared in Reference Synthetic Example 2 were heated in isopropyl alcohol with 3 mg of p-tosylic acid monohydrate at 105° C. for 18 hours and cooled to room temperature. The precipitated solid was recovered by filtration and washed with 1 mL of isopropyl alcohol, and the resulting crystals were dried to give the desired product (yield 86%).

reactant | 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 28 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | 5-(morpholine-4-carbonyl)thiophene-2-carbohydrazide | 26 mg | N1(CCOCC1)C(=O)C1=CC=C(S1)C(=O)NN | C10H13N3O3S
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 5-(Morpholine-4-carbonyl)thiophene-2-carboxylic acid {1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidene}hydrazide | yield 86% | ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C(C)=NNC(=O)C=1SC(=CC1)C(=O)N1CCOCC1)O | C22H19Cl2N3O4S2
